US07417157B2
5.1 g (about 10.7 mmol) of (E/Z) isomer mixture of (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-3-pent-1-enyl-1,2,3,4,4a,9b-hexahydrodibenzofuran in 50 ml of THF are hydrogenated in a hydrogen atmosphere with addition of 5.0 g of Pd/C (5% Pd). After completion of the uptake of hydrogen (37 h), the reaction solution is filtered and concentrated to dryness. The residue is filtered adsorptively (SiO2, toluene), and the beige solid obtained is re-crystallised repeatedly from isopropanol at room temperature, giving (±)-(3R*, 4aR*, 9bS*)-7-ethoxy-6-fluoro-3-pentyl-1,2,3,4,4a,9b-hexahydro-dibenzofuran as colourless solid (melting point 118° C.).

reactant | 7-ethoxy-6-fluoro-3-pent-1-enyl-1,2,3,4,4a,9b-hexahydrodibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)C=CCCC)C=C1)F | C19H25FO2
reactant | hydrogen | [H][H] | H2
solvent | THF | 50 ml | C1CCOC1 | C4H8O
catalyst | Pd/C | 5.0 g | [Pd] | Pd
product | 7-ethoxy-6-fluoro-3-pentyl-1,2,3,4,4a,9b-hexahydro-dibenzofuran | C(C)OC1=C(C2=C(C3C(O2)CC(CC3)CCCCC)C=C1)F | C19H27FO2
